US07098226B2
1-[2-(1-Adamantyl)ethyl]-1-(2-aminoethyl)-3-[3-(4-pyridyl)propyl]urea (Compound No. 28-1)
Under ice-cooling, 6 N hydrochloric acid (15 ml) was added to a solution of 1-[2-(acetylamino)ethyl]-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea (Compound No. 1-103) (1.02 g, 2.39 mmol) in methanol (10 ml), and the mixture was heated at 90° C. with stirring for three days. The reaction mixture was neutralized with a 1 N aqueous sodium hydroxide solution (10 ml), chloroform (50 ml) and water (10 ml) were added thereto, and layers were separated. The organic layer was washed with a saturated aqueous sodium chloride solution (50 ml) and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give 200 mg (21.7%) of the titled compound as an oily matter.

reactant | hydrochloric acid | 6 N, 15 ml | Cl | ClH
reactant | 1-[2-(acetylamino)ethyl]-1-[2-(1-adamantyl)ethyl]-3-[3-(4-pyridyl)propyl]urea | C(C)(=O)NCCN(C(=O)NCCCC1=CC=NC=C1)CCC12CC3CC(CC(C1)C3)C2 | C25H38N4O2
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 1-[2-(1-Adamantyl)ethyl]-1-(2-aminoethyl)-3-[3-(4-pyridyl)propyl]urea | 200 mg, 21.7% | C12(CC3CC(CC(C1)C3)C2)CCN(C(=O)NCCCC2=CC=NC=C2)CCN | C23H36N4O
